US08420823B2
N-(3-phenylpropyl)-3-(piperidin-1-ylsulfonyl)benzamide
The entitled compound was produced according to the method of Example 73 but using 3-(piperidin-1-ylsulfonyl)benzoic acid and 3-phenylpropylamine as the starting materials.

reactant | 3-(piperidin-1-ylsulfonyl)benzoic acid | N1(CCCCC1)S(=O)(=O)C=1C=C(C(=O)O)C=CC1 | C12H15NO4S
reactant | 3-phenylpropylamine | C1(=CC=CC=C1)CCCN | C9H13N
product | N-(3-phenylpropyl)-3-(piperidin-1-ylsulfonyl)benzamide | C1(=CC=CC=C1)CCCNC(C1=CC(=CC=C1)S(=O)(=O)N1CCCCC1)=O | C21H26N2O3S
